US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-thion-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl} ethyl)-amino]-propane
2.28 gm (0.005 mol) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane were dissolved in 10 ml of absolute toluene, and the solution was refluxed for 50 minutes with 1.0 gm (0.0025 mol) of 2,4-bis-(4-methoxy-phenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide. After the solvent had been removed in vacuo in a rotary evaporator, the residue was purified on aluminium oxide with methylene chloride plus 2% ethanol as the eluant.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane | 0.005 mol, 2.28 gm | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C26H36N2O5
reactant | 2,4-bis-(4-methoxy-phenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.0025 mol, 1.0 gm | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-thion-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl} ethyl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=S)C=C1OC | C26H36N2O4S
